US04046900
32.0 g of 1-acetylisonipecotoyl chloride, Example 1(b) are added portionwise to a stirred mixture of 45.3 g of aluminum chloride, 28.3 g of bromobenzene and 120 ml of ethylene dichloride. The solution is stirred overnight, poured onto ice, the organic phase is collected, and the aqueous layer is extracted with chloroform. The organic solutions are combined, dried, and the solvent is removed under reduced pressure to give a yellow oil which crystallizes to a soft solid. The solid is triturated with ether, collected and dried to give 1-acetyl-4-(4-bromobenzoyl)piperidine.

reactant | 1-acetylisonipecotoyl chloride | 32.0 g | C(C)(=O)N1CCC(C(=O)Cl)CC1 | C8H12ClNO2
reactant | aluminum chloride | 45.3 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | bromobenzene | 28.3 g | BrC1=CC=CC=C1 | C6H5Br
solvent | ethylene dichloride | 120 ml | C(CCl)Cl | C2H4Cl2
product | 1-acetyl-4-(4-bromobenzoyl)piperidine | C(C)(=O)N1CCC(CC1)C(C1=CC=C(C=C1)Br)=O | C14H16BrNO2
